US06172085B2
4-[2-(Dipenylmethoxy)ethyl]piperidine
Using benzhydrol and 4-piperidineethanol, the procedure of Reference Example 23 was otherwise repeated to provide the title compound. Yield 94%.

reactant | benzhydrol | C(C1=CC=CC=C1)(C1=CC=CC=C1)O | C13H12O
reactant | 4-piperidineethanol | N1CCC(CC1)CCO | C7H15NO
product | 4-[2-(Dipenylmethoxy)ethyl]piperidine | Yield 94% | C1(=CC=CC=C1)C(OCCC1CCNCC1)C1=CC=CC=C1 | C20H25NO
